US04559345
(a) 2-p-Methoxybenzylthio-4-chloro-6-(2,3-xylidino)-pyrimidine
To a solution of 2-p-methoxybenzylthio-4,6-dichloro-pyrimidine (19.8 g) in acetonitrile (100 l) is added 2,3-xylidine (16 ml) and the resulting mixture is refluxed for 36 hours. The solid is filtered, washed with a little amount of acetonitrile, then the filtrate is concentrated to dryness. The residue is purified by chromatography on silica-gel. 17 g of the desired product are obtained. M.p. 118°-119° C. (benzene/hexane).

reactant | 2-p-methoxybenzylthio-4,6-dichloro-pyrimidine | 19.8 g | COC1=CC=C(CSC2=NC(=CC(=N2)Cl)Cl)C=C1 | C12H10Cl2N2OS
reactant | 2,3-xylidine | 16 ml | NC1=C(C(=CC=C1)C)C | C8H11N
solvent | acetonitrile | 100 l | C(C)#N | C2H3N
product | 2-p-Methoxybenzylthio-4-chloro-6-(2,3-xylidino)-pyrimidine | 17 g | COC1=CC=C(CSC2=NC(=CC(=N2)Cl)NC2=C(C(=CC=C2)C)C)C=C1 | C20H20ClN3OS
